US06921623B2
Into 100 ml of dehydrated ethyl acetate, were fed 11.0 g (50 mmol) of p-bromophenol, and 4.8 ml of a solution composed of hydrochloric acid (1.0 mol/L) and ether, and the mixture was set at 40° C. Into the mixture, 10.8 g (150 mmol) of ethylvinylether was added dropwise, and the mixture was kept with stirring for one night. After completion of the reaction, the reaction solution was rinsed with sodium hydrogen carbonate solution and then rinsed with water to remove solvent. By purifying with silica gel column chromatography (eluate: hexane), 10.7 g (36.5 mmol) of 1-(1-ethoxy)ethoxy-4-bromobenzene was obtained.

reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | p-bromophenol | 50 mmol, 11.0 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | hydrochloric acid | 1.0 mol/L | Cl | ClH
reactant | ethylvinylether | 150 mmol, 10.8 g | C(C)OC=C | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-(1-ethoxy)ethoxy-4-bromobenzene | 36.5 mmol, 10.7 g | C(C)OC(C)OC1=CC=C(C=C1)Br | C10H13BrO2
